US05571311
A pin pelletizer was charged with 42.4 g of sulfanilic acid and with 200 g of a carbon black having a CTAB surface area of 350 m2 /g and a DBPA of 120 ml/100 g. After mixing for 30 seconds, a solution of 17.4 g NaNO2 in 150 g of boiling water was added and the mixture was pelletized for 45 seconds. 4-Sulfobenzenediazonium hydroxide inner salt is formed, which reacts with the carbon black. The product, which was then at 35° C. was dried in an oven at 120° C. The product had a 325 mesh residue of 0.2%, compared to 97% for the unreacted carbon black. The product has attached p--C6H4SO3- groups.

reactant | sulfanilic acid | 42.4 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | carbon black | 200 g | C | CH4
reactant | DBPA | C1=C(NC(=C1Br)Br)C(=O)O | C5H3Br2NO2
reactant | NaNO2 | 17.4 g | N(=O)[O-].[Na+]
solvent | water | 150 g | O | H2O
product | 4-Sulfobenzenediazonium hydroxide | [OH-].S(=O)(=O)(O)C1=CC=C(C=C1)[N+]#N | InChI=1S/C6H4N2O3S.H2O/c7-8-5-1-3-6(4-2-5)12(9,10)11;/h1-4H;1H2
